US07169805B2
Captopril (2.48 g, 0.0114 Mol) and N,N-diisopropyl ethylamine (4.50 ml, 0.0258 Mol) were dissolved in dioxane/H2O (30 ml, 1:1). The mixture was cooled to 0° C. and 1-chloromethyl chloroformate (1.20 ml, 0.0147 Mol) was added. The reaction was stirred at 0° C. for 4 h, then partitioned between HCl (4%, 30 ml) and CH2Cl2 (30 ml). The aqueous phase was extracted with CH2Cl2 (2×30 ml) and the combined organic phases were washed with HCl (4%, 30 ml) and brine (3×30 ml), dried over sodium sulphate and evaporated under reduced pressure affording 1-[(2S)-3-(chloromethoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline as a clear oil (2.60 g) that was used without further purification.

reactant | Captopril | 0.0114 Mol, 2.48 g | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
reactant | N,N-diisopropyl ethylamine | 0.0258 Mol, 4.50 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-chloromethyl chloroformate | 0.0147 Mol, 1.20 ml | ClC(=O)OCCl | C2H2Cl2O2
solvent | dioxane H2O | 30 ml | O1CCOCC1.O
product | 1-[(2S)-3-(chloromethoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline | 2.60 g | ClCOC(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C11H16ClNO5S
